### PR TITLE
added new specifiers

### PR DESCRIPTION
**Pull request by majorseitan**
added a few more specifiers

### CODE REVIEW

File: theories/Justify.v [hunk 1]
```diff
@@ -0,0 +1,269 @@
+(* This impelementation was a helpful reference
```
Comment (gmalecha) [inline theories/Justify.v]: Spelling.

File: theories/Justify.v [hunk 2]
```diff
@@ -0,0 +1,269 @@
...
+   https://gist.github.com/rntz/aaaaf7a0bdb1cc65c49adb6adde29728
+*)
+Require Import Coq.Strings.Ascii.
+Require Import Coq.Strings.String.
+Require Import Coq.Init.Nat.
+Require Import Coq.Arith.PeanoNat.
+
+(* Drop returns the string left after removing the first n characters. *)
+Fixpoint drop (n : nat) (s : string) :=
```
Comment (gmalecha) [inline theories/Justify.v:10]: This is `skipn` from the Coq standard library.

File: theories/Justify.v [hunk 3]
```diff
@@ -0,0 +1,269 @@
...
+Theorem drop_spec : forall l r , drop (length l) (l ++r ) = r.
+  intros.
+  induction l.
+  reflexivity.
+  simpl.
+  apply IHl.
+Qed.
+
+(* Take returns the first n characters of the string or the string itself *)
+Fixpoint take (n : nat) (s : string):=
```
Comment (gmalecha) [inline theories/Justify.v:29]: This is `firstn` from the standard library.

File: theories/Justify.v [hunk 4]
```diff
@@ -0,0 +1,269 @@
...
+  match n with
+  | 0 => s
+  | S n => match s with
+           | EmptyString => EmptyString
+           | String _ s => drop n s
+           end
+  end.
+
+Theorem drop_spec : forall l r , drop (length l) (l ++r ) = r.
+  intros.
```
Comment (gmalecha) [inline theories/Justify.v:21]: All uses of tactics should be in a `Proof.`

File: theories/Justify.v [hunk 5]
```diff
@@ -0,0 +1,269 @@
...
+
+
+(* left justify *)
+
+Definition left_justify_string
+           (a : ascii )
+           (n : nat)
+           (s : string) : string := s ++ (replicate a (n - (length s))).
+
+Theorem length_sn : forall s a , length (String a s) = S(length s).
```
Comment (gmalecha) [inline theories/Justify.v]: If you only rewrite this right to left, then you can replace it with `simpl`, or `simpl String.length`.

File: theories/Printf.v [hunk 6]
```diff
@@ -1,7 +1,258 @@
 Require Import Coq.Strings.Ascii.
 Require Import Coq.Strings.String.
+Require Import Coq.Init.Nat.
+Require Import Coq.Arith.PeanoNat.
+Require Import Printf.Justify.
+(* Require Import Coq.omega.Omega. *)
```
Comment (gmalecha) [inline theories/Printf.v]: Drop this line. `Omega` is deprecated anyways.

File: theories/Printf.v [hunk 7]
```diff
@@ -1,7 +1,258 @@
...
 
-Require Import ExtLib.Programming.Show.
+Require Import Coq.Program.Wf.
+Inductive justify : Set := LeftJustify | RightJustify.
+(*
+ reference :
+ http://www.cplusplus.com/reference/cstdio/printf/  *)
+(* %[flags]     [width]  specifier  *)
+(* %(-|+| |#|0)^* (\d+)    specifier  *)
+Record options := { option_justify : justify ;        (* '-'   : left justify                   x *)
```
Comment (gmalecha) [inline theories/Printf.v]: It might make sense to move this (and the subsequent definitions) to another file since it is long.

Comment (gmalecha) [inline theories/Printf.v]: Also, probably a good idea to explicitly mark it `: Set`.

File: theories/Printf.v [hunk 8]
```diff
@@ -1,7 +1,258 @@
...
+                          option_prefix : bool ;      (* '#'   : precede with o x X , 0 0x 0X
+                                                                 for values different than zero x *)
+                          option_zero_pad : bool ;    (* '0'   : padd with 0's instead of space x *)
+                          option_width : option nat ; (* (\d+) : width of field                 x *)
+                        }.
+
+
+
+(* default options *)
+Definition default_options : options := {| option_justify :=  RightJustify ;
```
Comment (gmalecha) [inline theories/Printf.v]: Probably make the indentation consistent.

File: theories/Printf.v [hunk 9]
```diff
@@ -1,7 +1,258 @@
...
+                                           option_sign := false;
+                                           option_space := false;
+                                           option_prefix := false;
+                                           option_zero_pad := false;
+                                           option_width := None;
+                                        |}.
+Definition update_option_justify o v :=
```
Comment (gmalecha) [inline theories/Printf.v]: You could use `coq-lens` to derive these...that would add another dependency though.

File: theories/Printf.v [hunk 10]
```diff
@@ -1,7 +1,258 @@
 Require Import Coq.Strings.Ascii.
 Require Import Coq.Strings.String.
+Require Import Coq.Init.Nat.
+Require Import Coq.Arith.PeanoNat.
+Require Import Printf.Justify.
+(* Require Import Coq.omega.Omega. *)
 
-Require Import ExtLib.Programming.Show.
+Require Import Coq.Program.Wf.
+Inductive justify : Set := LeftJustify | RightJustify.
```
Comment (gmalecha) [inline theories/Printf.v]: Blank line after imports. Also, add `Set Primitive Projections.`

Comment (gmalecha) [inline theories/Printf.v]: Change `Inductive` to `Variant` to avoid generation of induction schemes.

File: theories/Printf.v [hunk 11]
```diff
@@ -13,35 +264,148 @@ with hole (fmt : string) : Type :=
...
+  | String "7" fmt => width fmt
+  | String "8" fmt => width fmt
+  | String "9" fmt => width fmt
+  | String  x  fmt => holes fmt
   end.
 
-Local Fixpoint sprintf' (acc : string -> string) (fmt : string) {struct fmt}
-: holes fmt :=
+(* helper methods to format *)
+Definition format_s (s : string) (o : options) (x : string) : string :=
```
Comment (gmalecha) [inline theories/Printf.v]: There seems to be a fair amount of repetition here. Does it make sense to essentially have two functions?

1. Convert the value (e.g. `nat`) to a string. For this you can use `ExtLib.Programming.Show`
2. Apply the `options`, i.e. `apply_options : options -> string -> string`

**Review by gmalecha — CHANGES_REQUESTED** [review]
Thanks for the features. A few comments.

File: theories/Justify.v (hunk 2 above)
Comment (majorseitan) [reply theories/Justify.v:10]: skpin works with lists and I have strings

File: theories/Justify.v (hunk 3 above)
Comment (majorseitan) [reply theories/Justify.v:29]: firstn takes lists I have a string

File: theories/Printf.v (hunk 11 above)
Comment (majorseitan) [reply theories/Printf.v]: I don't think Show supports multiple bases.  The options are a bit different for each specifier, I have tried to clean it up let me know your thoughts.

File: theories/Printf.v (hunk 8 above)
Comment (majorseitan) [reply theories/Printf.v]: I think this is tab issue let me know if this persists.

File: theories/Printf.v (hunk 7 above)
Comment (majorseitan) [reply theories/Printf.v]: moved to Flags.v

File: theories/Justify.v (hunk 3 above)
Comment (gmalecha) [reply theories/Justify.v:29]: Ah, thanks.

File: theories/Flags.v [hunk 12]
```diff
@@ -0,0 +1,114 @@
+Set Primitive Projections.
+
+Variant justify : Set := LeftJustify | RightJustify.
+(*
+ reference :
+ http://www.cplusplus.com/reference/cstdio/printf/  *)
+(* %[flags]     [width]  specifier  *)
+(* %(-|+| |#|0)^* (\d+)    specifier  *)
+Record options : Set := { option_justify : justify ;  (* '-'   : left justify                   x *)
```
Comment (gmalecha) [inline theories/Flags.v]: This indentation is still inconsistent. I think you want to put the `{` on the next line.

File: theories/Flags.v [hunk 13]
```diff
@@ -0,0 +1,114 @@
...
+                          option_prefix : bool ;      (* '#'   : precede with o x X , 0 0x 0X
+                                                                 for values different than zero x *)
+                          option_zero_pad : bool ;    (* '0'   : padd with 0's instead of space x *)
+                          option_width : option nat ; (* (\d+) : width of field                 x *)
+                        }.
+
+
+
+(* default options *)
+Definition default_options : options := {| option_justify :=  RightJustify ;
```
Comment (gmalecha) [inline theories/Flags.v]: The `{|` should go on the next line (consistency with the following definitions).

File: theories/Printf.v (hunk 9 above)
Comment (majorseitan) [reply theories/Printf.v]: gonna skip for now as it coq-print is not in opam right so dependencies have to installed manually.

**Review by gmalecha — CHANGES_REQUESTED** [review]
Only two minor formatting issues.

File: theories/Flags.v [hunk 14]
```diff
@@ -0,0 +1,116 @@
...
+         zero_pad)
+         width) =
+         {| option_justify := justify ;
+            option_sign := sign ;
+            option_space := space ;
+            option_prefix := prefix ;
+            option_zero_pad := zero_pad ;
+            option_width := width
+         |}.
+intros.
```
Comment (gmalecha) [inline theories/Flags.v]: Missing `Proof.`

File: theories/Justify.v [hunk 15]
```diff
@@ -0,0 +1,285 @@
...
+           (s : string) : string := (replicate a (n - (length s))) ++ s.
+
+Theorem drop_replicate : forall a n s , drop n ((replicate a n)  ++ s) = s.
+Proof.
+  intros.
+  induction n.
+  reflexivity.
+  simpl.
+  apply IHn.
+  Qed.
```
Comment (gmalecha) [inline theories/Justify.v]: Why indent?

**Review by gmalecha — APPROVED** [review]
A few minor things, mostly formatting. Otherwise, it looks great. Thanks so much.

**Comment by gmalecha** [comment]
Thanks!
